US05607691
A mixture of choline (2.235 mg, 16 mmol) and phosgene (32 ml, 1.93M in toluene) in THF (90 ml) was stirred at room temperature for 72 hours. The precipitate was filtered, washed with hexane, and dried in vacuo to yield choline chloride chloroformate (3.0 g).

reactant | choline | 16 mmol, 2.235 mg | OCC[N+](C)(C)C
reactant | phosgene | 1.93M, 32 ml | C(=O)(Cl)Cl | CCl2O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | choline chloride chloroformate | 3.0 g | ClC(=O)[O-].[Cl-].OCC[N+](C)(C)C.OCC[N+](C)(C)C | InChI=1S/2C5H14NO.CHClO2.ClH/c2*1-6(2,3)4-5-7;2-1(3)4;/h2*7H,4-5H2,1-3H3;(H,3,4);1H/q2*+1;;/p-2
